*****************************************************************
* NXP PSMN6R5-25YLC
*
* Polarity N-Channel
* Ratings 25V/6.500000E-003OHMS/64A
*
* Date Created Tue Aug 30 07:08:40 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN6R5-25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 2500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0045 TC=0.00505389574322871,2.81398144002592E-06
RBD 9 4 0.00214490032613285 TC=0.00505389574322871,2.81398144002592E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 9.0e-10
RG 1 2 2.17663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	1025
+ -10	1023
+ -5	1018
+ -4	1013
+ -3	997
+ -2	763
+ -1	717
+ -0.5	616
+ -0.2	549
+ -0.1	526
+ 0	503
+ 0.1	469
+ 0.2	435
+ 0.5	344
+ 1	246
+ 2	175
+ 3	151
+ 4	138
+ 5	130
+ 6	123
+ 8	116
+ 10	111
+ 12	108
+ 15	103
+ 20	97
+ 25	91



.MODEL MINT NMOS(Vto=2.055 Kp=1.5e+002 Nfs=560000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=30 Ibv=2.500000E-004 Rs=1E-6 Is=5.62366210396577e-13
+ N=1 M=0.64 VJ=0.7 Fc=0.5 Cjo=1.08e-09 Tt=2.0e-08)

.ENDS

